US07572794B2
1,4-Dioxa-8-aza-spiro[4.5]decan-8-carboxylic acid(4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide (564 mg, 1.04 mmol) in acetone (35 mL), was cooled to 4° C. and treated dropwise with aqueous hydrochloric acid (4 N, 9 mL). The reaction was warmed to rt and stirred overnight. The reaction was made basic by the addition of saturated aqueous sodium hydrogencarbonate and extracted with EtOAc. The organic phase was washed with brine, dried, filtered and concentrated in vacuo to give 4-oxo-piperidine-1-carboxylic acid (4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide (467 mg, 90%) as a solid; 1H-NMR (300 MHz, d6-DMSO) 10.14 (1H, s), 9.36 (1H, s), 8.25 (1H, s), 8.17 (1H, d), 8.10 (1H, s), 7.96 (1H, t), 7.86 (1H, s), 7.72 (1H, d), 7.64 (1H, d), 7.23-7.32 (2H, m), 6.96-6.98 (1H, m), 6.66 (1H, t), 6.55 (1H, d), 4.45 (2H, d), 4.13 (3H, s), 3.72-3.76 (4H, m), 2.36-2.40 (4H, m); m/z (ES+) 498 [M+H]+.

reactant | 1,4-Dioxa-8-aza-spiro[4.5]decan-8-carboxylic acid(4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide | 1.04 mmol, 564 mg | CN1N=C2C=C(C=CC2=C1)NC(=O)C1=C(C=CC=C1)NCC1=CC(=NC=C1)NC(=O)N1CCC2(OCCO2)CC1 | C29H31N7O4
reactant | hydrochloric acid | 4 N, 9 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 35 mL | CC(=O)C | C3H6O
product | 4-oxo-piperidine-1-carboxylic acid (4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide | 467 mg, 90% | CN1N=C2C=C(C=CC2=C1)NC(=O)C1=C(C=CC=C1)NCC1=CC(=NC=C1)NC(=O)N1CCC(CC1)=O | C27H27N7O3
